US09126931B2
2-(2-Bromo-4-methoxy-phenyl)-propan-2-ol
To the mixture of 1-(2-bromo-4-methoxyphenyl)-ethanone (300 mg) dissolved in THF solution (3 ml), MeMgBr (3 M THF solution, 0.52 ml) was added at 0° C. under nitrogen atmosphere. Then, the mixture was stirred at room temperature for 6 hrs. The reaction mixture was added with saturated aqueous solution of ammonium chloride and extracted with ethyl acetate. The organic layer was washed with saturated brine, and the residues obtained after concentration under reduced pressure were purified by silica gel column (ethyl acetate/hexane) to obtain the title compound (220 mg, 69%).

reactant | 1-(2-bromo-4-methoxyphenyl)-ethanone | 300 mg | BrC1=C(C=CC(=C1)OC)C(C)=O | C9H9BrO2
reactant | MeMgBr | 3 M, 0.52 ml | C[Mg+].[Br-]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 2-(2-Bromo-4-methoxy-phenyl)-propan-2-ol | 220 mg, 69% | BrC1=C(C=CC(=C1)OC)C(C)(C)O | C10H13BrO2
